US04315011
4.39 g. (10 mmoles) of 1-ethyl-1-(2'-methoxycarbonylethyl)-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]-quinolizin-5-ium perchlorate are shaken with a mixture of 5 ml. of 10% aqueous ammonia and 50 ml. of dichloromethane. The phases are separated, the organic phase is dried over 10 g. of solid anhydrous sodium sulfate and filtered. The filtrate is admixed with 50 ml. of glacial acetic acid, and dichloromethane is distilled off in vacuo. 0.67 ml. (13 mmoles, 2.08 g.) of elemental bromine are added dropwise, under vigorous stirring, to the residue at 25° C. The reaction mixture is stirred at room temperature for 3 hours, the precipitated yellow, crystalline product is filtered off and dried. In this way 4.5 g. of 1-ethyl-1-(2'-methoxycarbonylethyl)-9-bromo-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]quinolizin-5-ium hydrobromide are obtained; yield: 90%, m.p.: 127°-128° C. The NMR spectrum of the product has the characteristic bands as indicated in Example 7.

reactant | 1-ethyl-1-(2'-methoxycarbonylethyl)-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]-quinolizin-5-ium perchlorate | 10 mmoles | Cl(=O)(=O)(=O)[O-].C(C)C1(CCC[N+]=2CCC3=C(C12)NC1=CC=CC=C13)CCC(=O)OC
reactant | ammonia | N | H3N
reactant | bromine | 13 mmoles, 2.08 g | BrBr | Br2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-ethyl-1-(2'-methoxycarbonylethyl)-9-bromo-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]quinolizin-5-ium hydrobromide | yield: 90% | Br.C(C)C1(CCC[N+]=2CCC3=C(C12)NC1=CC=C(C=C13)Br)CCC(=O)OC | InChI=1S/C21H25BrN2O2.BrH/c1-3-21(10-7-18(25)26-2)9-4-11-24-12-8-15-16-13-14(22)5-6-17(16)23-19(15)20(21)24;/h5-6,13H,3-4,7-12H2,1-2H3;1H/p+1
